2141-01-29 09:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2141-1-28**] 11:08 PM
 BLOOD CULTURED - At [**2141-1-29**] 12:00 AM
 ARTERIAL LINE - START [**2141-1-29**] 12:57 AM
   Transferred to the ICU from an OSH overnight.  Admitted to the OSH on
   [**1-27**] for lethargy and was intubated for respiratory failure (hypercarbic
   and hypoxemic).  Per girlfriend, has had a subacute decline in
   functional status, FTT, movement over the last 3-4 months.  Diagnosed
   with Parkinson's during this time by a neurologist at [**Hospital1 3462**].  Admitted in late [**Month (only) 2139**] with respiratory failure at that
   time, requiring intubation.
   History obtained from Family / [**Hospital 75**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2141-1-29**] 05:29 AM
   Heparin Sodium (Prophylaxis) - [**2141-1-29**] 05:29 AM
   Other medications:
   Terazosin, peridex, albuterol PRN
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-1-29**] 09:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.6
   HR: 83 (57 - 84) bpm
   BP: 94/40(57) {94/40(0) - 157/51(83)} mmHg
   RR: 16 (14 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63 kg (admission): 63 kg
             Total In:
                                                                     10 mL
                                                                  1,243 mL
   PO:
             TF:
             35 mL
   IVF:
                                                                     10 mL
                                                                  1,208 mL
   Blood products:
   Total out:
                                                                     40 mL
                                                                    285 mL
   Urine:
                                                                     40 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -30 mL
                                                                    958 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (350 - 450) mL
   Vt (Spontaneous): 353 (353 - 353) mL
   RR (Set): 16
   RR (Spontaneous): 1
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: FiO2 > 60%
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.31/75/98.[**Numeric Identifier 176**]/38/7
   Ve: 6.4 L/min
   PaO2 / FiO2: 196
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : Bilateral, Diminished:
   L base)
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   160 K/uL
   92 mg/dL
   1.3 mg/dL
   38 mEq/L
   4.3 mEq/L
   28 mg/dL
   89 mEq/L
   129 mEq/L
   29.0 %
   8.0 K/uL
        [image002.jpg]
                             [**2141-1-29**]  12:08 AM
                             [**2141-1-29**]  12:10 AM
                             [**2141-1-29**]  02:02 AM
                             [**2141-1-29**]  04:20 AM
                             [**2141-1-29**]  06:06 AM
   WBC
   8.0
   Hct
   29.0
   Plt
   160
   Cr
   1.3
   TCO2
   37
   39
   40
   40
   Glucose
   92
   Other labs: PT / PTT / INR:13.7/35.2/1.2, Differential-Neuts:73.8 %,
   Lymph:16.1 %, Mono:9.4 %, Eos:0.3 %, Lactic Acid:0.7 mmol/L, Ca++:9.3
   mg/dL, Mg++:1.7 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- predominately ventilatory failure.  Seems to
   have subacute process with acute decompensation.  Given history,
   concern for neuromuscular process.  Also was a smoker and has some
   hyperinflation of R lung on CXR.  Acute decompensation may be related
   to aspiration.
      -Continue low tidal volume ventilation
      -Check airways resistance and NIF
      -Will review OSH films to assess pulmonary vasculature and
   parenchyma.
      -Given no fevers, leukocytosis or secretions, holding on abx for
   now.
   WEAKNESS, CLONUS -- unclear whether current constellation of signs and
   symptoms consitent with Parkinson's DIsease or other neurodegenerative
   process or paraneoplastic manifestation.  Doubt ALS in absence of
   fasciculations.
     -Neuro consult when his sedation is lightened and he is able to be
   examined reliably
   ACID/BASE:  Metabolic alkalosis suggestive of both mild volume
   contraction and subacute hypoventilation.
      -Mild hydration.
      -Will target a normal pH with the ventilator rather than a normal
   CO2
   Renal Failure:  Baseline Cr < 1.0, now 1.3.  Likely prerenal
      -Hydration as above.
   NUTRITIONAL SUPPORT -- weight loss may reflect reduced PO intake, but
   may also reflect underlying malignancy or degenerative state.
   Nutitional assessment.  Plan initiate tube feeds via NGT.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-1-29**] 04:59 AM 10 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   22 Gauge - [**2141-1-28**] 11:24 PM
   20 Gauge - [**2141-1-28**] 11:25 PM
   Arterial Line - [**2141-1-29**] 12:57 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2141-01-30 07:16:00 Physician Resident Progress Note
Chief Complaint: Resp failure
   24 Hour Events:
   - weaned off sedation, very comfortable
   - switched to PS most of day
   - Repeat labs after first liter NS --improved Na, Cr.  Ordered another
   liter NS
   - Resp: NIF/airway resistence
   - CT scan from OSH - B/L lower lobe infiltrates, air bronchogram, L>R;
   GPCs in sputum, given rising WBC, sputum, started vanco/zosyn
   - Family came in, reports 50 pack yr smoker, quit 15 yrs ago.  Has
   parkinsons, was supposed to have sleep study for apnea (? central).
   - started captopril fo htn (BP 180s systolic), takes lisinopril at home
   - 10:30PM, became tachycardic (ecg sinus tach), tachypneic, and SOB.
   Back on AC 400 x 16 with propofol
   - hypotensive on propofol (d/c'd captopril, NS bolus --> resolved)
   History obtained from Family / Friend
   [**Name (NI) **] unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2141-1-29**] 08:19 PM
   Piperacillin/Tazobactam (Zosyn) - [**2141-1-30**] 04:09 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-1-30**] 06:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-1-30**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.2
   HR: 77 (60 - 124) bpm
   BP: 123/32(60) {102/25(47) - 180/64(99)} mmHg
   RR: 18 (9 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63 kg (admission): 63 kg
   Height: 66 Inch
             Total In:
                                                                  4,156 mL
                                                                  1,055 mL
   PO:
             TF:
                                                                    347 mL
                                                                    210 mL
   IVF:
                                                                  3,749 mL
                                                                    844 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    405 mL
   Urine:
                                                                  1,700 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,456 mL
                                                                    650 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 405 (351 - 448) mL
   PS : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 8
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 110
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 99%
   ABG: 7.39/57/81.[**Numeric Identifier 218**]/34/7
   Ve: 6.8 L/min
   PaO2 / FiO2: 162
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Bronchial: , Diminished: bases)
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   127 K/uL
   9.4 g/dL
   141 mg/dL
   1.0 mg/dL
   34 mEq/L
   3.8 mEq/L
   22 mg/dL
   97 mEq/L
   133 mEq/L
   25.8 %
   5.9 K/uL
        [image002.jpg]
                             [**2141-1-29**]  12:10 AM
                             [**2141-1-29**]  02:02 AM
                             [**2141-1-29**]  04:20 AM
                             [**2141-1-29**]  06:06 AM
                             [**2141-1-29**]  10:00 AM
                             [**2141-1-29**]  10:27 AM
                             [**2141-1-29**]  05:30 PM
                             [**2141-1-29**]  11:58 PM
                             [**2141-1-30**]  03:20 AM
                             [**2141-1-30**]  03:38 AM
   WBC
   7.5
   5.9
   Hct
   29.9
   25.8
   Plt
   153
   127
   Cr
   1.2
   1.0
   TCO2
   37
   39
   40
   40
   36
   33
   35
   36
   Glucose
   96
   96
   141
   Other labs: PT / PTT / INR:13.7/35.2/1.2, Differential-Neuts:73.8 %,
   Lymph:16.1 %, Mono:9.4 %, Eos:0.3 %, Lactic Acid:0.6 mmol/L, Ca++:8.3
   mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Imaging: CT scan: B/L infiltrates, esp LLL
   Microbiology: Sputum [**2141-1-29**]: gram stain GPCs
   Urine [**2141-1-29**]: NGTD
   Blood [**2141-1-29**]: NGTD
   Assessment and Plan
   77 yo M with acute mixed respiratory failure in setting of recent
   hypercarbic resp failure with asp PNA and subacute cognitive decline
   with recent diagnosis of PD.
   #) MIXED RESPIRATORY FAILURE, VENTILLATORY > HYPOXIC:
   Based on OSH CT scan, looks like aspiration pneumonitis/pneumonia in
   setting of somnolence and h/o dysphagia; no evidence of PE on CTA.
   Also possibly NM weakness is contributing.  Unclear why oxygenating
   well here, so likely more hypercarbic in nature.  Small effusion on
   left on CT scan.  Has 50 pack year smoking hx per family
   -- looked at [**Last Name (un) **] CT scan, need to have uploaded into our system
   -- albuterol standing
   -- continue vent support, 400 x 16 while on AC, but can likely change
   back to pressure support
   -- started vanco/zosyn emperically for aspiration pna; relative
   leukocytosis (pt with baseline leukopenia), sputum
   -- f/u sputum (GPCs on gram stain), blood, urine cultures [**2141-1-29**]
   -- check NIF to see if neuromuscular weakness is contributing
   #) LETHARGY: unclear whether [**2-27**] to meds (Mirapex) or hypoxia/resp
   status; head CT negative at OSH.  Did not appear somnolent off sedation
   [**2140-1-29**]
   -- cont holding Mirapex
   #) PARKINSON'S DISEASE, WEAKNESS:  recent dx of PD, though course seems
   somewhat rapid for PD.  Unclear if some other neurodegenrative process
   is occuring.
   -- will cont holding Mirapex for now
   -- check NIF as above
   #) METABOLIC ALKALOSIS: likely from volume depletion, contraction
   alkalosis, chronic compensation for resp acidosis
   -- ph normalized
   -- monitor
   #) ? ARF: basline renal fx normal on OSH labs. Resolved with IVFs,
   likely was prerenal
   -- Received IVFs
   -- Now on TFs
   #) HTN: on home lisinopril; restarted captopril o/n, but discontinued
   it when he became hypotensive on propofol
   -- will hold ACEI and amlodipine while potential need for propofol
   #) ? BPH HISTORY:
   -- cont home terazosin 10 mg QHS
   #) WEIGHT LOSS: has had 30 pound weight loss in last 3-4 months;
   unclear if [**2-27**] behavior/PD-related problems or malignancy.
   -- nutrition consult, tube feeds
   -- further work-up as above
   #) FEN: will begin tube feeds while intubated, nutrition consult; IVF
   PRN; replet lytes as needed.
   #) PROTEINURIA: possible [**2-27**] IgA gammopathy
   -- monitor renal function; work-up as above
   #) CONTACT PRECAUTIONS: MRSA for positive nasal swab at OSH (treated
   with Bactroban)
   #) PPX: lansoprazole QD; SQH; HAP precuations
   #) ACCESS: PIV
   #) CODE: full
   #) COMMUNICATION: with girlfriend [**Name (NI) 4786**] [**Name (NI) 4788**] [**Telephone/Fax (1) 4789**]
   #) DISPO: to remain in ICU for further work-up and care; will remain
   intubated overnight
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-1-30**] 01:46 AM 30 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2141-1-28**] 11:24 PM
   20 Gauge - [**2141-1-28**] 11:25 PM
   Arterial Line - [**2141-1-29**] 12:57 AM
   18 Gauge - [**2141-1-29**] 11:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2141-01-30 10:22:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tolerated PSV yesterday.  In evening, reported feeling uncomfortable
   with tachypnea and tachycardia.  Put back on A/C with propofol for
   sedation and developed some mild fluid-responsive HoTN.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2141-1-30**] 04:09 AM
   Vancomycin - [**2141-1-30**] 07:30 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-1-30**] 06:05 AM
   Other medications:
   peridex, lansoprazole, HSQ, Atrovent/Albuterol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-1-30**] 10:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.1
C (98.7
   HR: 73 (60 - 124) bpm
   BP: 113/28(51) {102/25(47) - 180/64(99)} mmHg
   RR: 15 (13 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63 kg (admission): 63 kg
   Height: 66 Inch
             Total In:
                                                                  4,156 mL
                                                                  1,692 mL
   PO:
             TF:
                                                                    347 mL
                                                                    299 mL
   IVF:
                                                                  3,749 mL
                                                                  1,354 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    675 mL
   Urine:
                                                                  1,700 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,456 mL
                                                                  1,017 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 447 (351 - 448) mL
   PS : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 110
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.39/57/81.[**Numeric Identifier 218**]/34/7
   Ve: 9.1 L/min
   PaO2 / FiO2: 162
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S2: Normal), (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : Anteriorly/laterally)
   Abdominal: Soft, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   127 K/uL
   141 mg/dL
   1.0 mg/dL
   34 mEq/L
   3.8 mEq/L
   22 mg/dL
   97 mEq/L
   133 mEq/L
   25.8 %
   5.9 K/uL
        [image002.jpg]
                             [**2141-1-29**]  12:10 AM
                             [**2141-1-29**]  02:02 AM
                             [**2141-1-29**]  04:20 AM
                             [**2141-1-29**]  06:06 AM
                             [**2141-1-29**]  10:00 AM
                             [**2141-1-29**]  10:27 AM
                             [**2141-1-29**]  05:30 PM
                             [**2141-1-29**]  11:58 PM
                             [**2141-1-30**]  03:20 AM
                             [**2141-1-30**]  03:38 AM
   WBC
   7.5
   5.9
   Hct
   29.9
   25.8
   Plt
   153
   127
   Cr
   1.2
   1.0
   TCO2
   37
   39
   40
   40
   36
   33
   35
   36
   Glucose
   96
   96
   141
   Other labs: PT / PTT / INR:13.7/35.2/1.2, Differential-Neuts:73.8 %,
   Lymph:16.1 %, Mono:9.4 %, Eos:0.3 %, Lactic Acid:0.6 mmol/L, Ca++:8.3
   mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Imaging: OSH CT:  Bibasilar infiltrates in dependent areas.
   CXR:
   Microbiology: Sputum GS: GPC
   BCx: NGTD
   UCx: NGTD
   Assessment and Plan
   RESPIRATORY FAILURE -- predominately ventilatory failure.  Seems to
   have subacute process with acute decompensation.  Given history,
   concern for neuromuscular process.  Also was a smoker and had airway
   resistance >20 yesterday.  Acute decompensation likely related to
   aspiration.
     -Wean PS today as able.
     -Check NIF
    -Vanco/Zosyn added yesterday given relative leukocytosis, secretions
   and infiltrates on OSH CT.
    -F/u Sputum Cultures
    -Continue standing bronchodilators
    [**Name (NI) 4807**] unclear whether current constellation of signs and symptoms
   consistent with Parkinson's DIsease or other neurodegenerative process
   or paraneoplastic manifestation.  Doubt ALS in absence of
   fasciculations.
     -Neuro consult when his sedation is lightened and he is able to be
   examined reliably
    ACID/BASE:  Metabolic alkalosis suggestive of both mild volume
   contraction and subacute hypoventilation.
     -Mild hydration/TF
     -Will target a normal pH with the ventilator rather than a normal CO2
    Renal Failure:  Baseline Cr < 1.0, now 1.0.  Likely prerenal and
   resolved
      -Hydration as above.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-1-30**] 01:46 AM 30 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   22 Gauge - [**2141-1-28**] 11:24 PM
   20 Gauge - [**2141-1-28**] 11:25 PM
   Arterial Line - [**2141-1-29**] 12:57 AM
   18 Gauge - [**2141-1-29**] 11:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2141-01-31 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - slowly weaning PSV
   - 2 NIF attempts yielded poor results:11 and 20 --> would consider
   neuro c/s in AM
   - sputum cx speciated to 2 GNRs, 1 of which is pseudomonas
   - remained afebrile and comfortable on vanco/zosyn
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2141-1-30**] 08:34 PM
   Piperacillin/Tazobactam (Zosyn) - [**2141-1-31**] 03:43 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-1-31**] 05:53 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-1-31**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 72 (66 - 108) bpm
   BP: 115/32(58) {113/28(51) - 167/50(106)} mmHg
   RR: 13 (0 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63 kg (admission): 63 kg
   Height: 66 Inch
             Total In:
                                                                  3,332 mL
                                                                    397 mL
   PO:
             TF:
                                                                    729 mL
                                                                    224 mL
   IVF:
                                                                  2,523 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                  1,485 mL
                                                                    455 mL
   Urine:
                                                                  1,485 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,847 mL
                                                                    -58 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 532 (164 - 612) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 70
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.39/59/129/33/8
   NIF: -20 cmH2O
   Ve: 4.9 L/min
   PaO2 / FiO2: 322
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   135 K/uL
   9.0 g/dL
   114 mg/dL
   0.9 mg/dL
   33 mEq/L
   3.7 mEq/L
   15 mg/dL
   99 mEq/L
   135 mEq/L
   25.7 %
   4.4 K/uL
        [image002.jpg]
                             [**2141-1-29**]  06:06 AM
                             [**2141-1-29**]  10:00 AM
                             [**2141-1-29**]  10:27 AM
                             [**2141-1-29**]  05:30 PM
                             [**2141-1-29**]  11:58 PM
                             [**2141-1-30**]  03:20 AM
                             [**2141-1-30**]  03:38 AM
                             [**2141-1-30**]  12:40 PM
                             [**2141-1-30**]  06:06 PM
                             [**2141-1-31**]  03:03 AM
   WBC
   7.5
   5.9
   4.4
   Hct
   29.9
   25.8
   25.7
   Plt
   153
   127
   135
   Cr
   1.2
   1.0
   0.9
   TCO2
   40
   36
   33
   35
   36
   35
   37
   37
   Glucose
   96
   96
   141
   114
   Other labs: PT / PTT / INR:13.7/35.2/1.2, Differential-Neuts:73.8 %,
   Lymph:16.1 %, Mono:9.4 %, Eos:0.3 %, Lactic Acid:0.6 mmol/L, Ca++:8.1
   mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Assessment and Plan
   77 yo M with acute mixed respiratory failure in setting of recent
   hypercarbic resp failure with asp PNA and subacute cognitive decline
   with recent diagnosis of PD.
   #) MIXED RESPIRATORY FAILURE, VENTILLATORY > HYPOXIC:
   Based on OSH CT scan, looks like aspiration pneumonitis/pneumonia in
   setting of somnolence and h/o dysphagia; no evidence of PE on CTA.
   Also possibly NM weakness is contributing.  Unclear why oxygenating
   well here, so likely more hypercarbic in nature.  Small effusion on
   left on CT scan.  Has 50 pack year smoking hx per family
   -- looked at [**Last Name (un) **] CT scan, need to have uploaded into our system
   -- albuterol standing
   -- continue vent support, 400 x 16 while on AC, but can likely change
   back to pressure support
   -- started vanco/zosyn emperically for aspiration pna; relative
   leukocytosis (pt with baseline leukopenia), sputum
   -- f/u sputum (GPCs on gram stain), blood, urine cultures [**2141-1-29**]
   -- check NIF to see if neuromuscular weakness is contributing
   #) LETHARGY: unclear whether [**2-27**] to meds (Mirapex) or hypoxia/resp
   status; head CT negative at OSH.  Did not appear somnolent off sedation
   [**2140-1-29**]
   -- cont holding Mirapex
   #) PARKINSON'S DISEASE, WEAKNESS:  recent dx of PD, though course seems
   somewhat rapid for PD.  Unclear if some other neurodegenrative process
   is occuring.
   -- will cont holding Mirapex for now
   -- check NIF as above
   #) METABOLIC ALKALOSIS: likely from volume depletion, contraction
   alkalosis, chronic compensation for resp acidosis
   -- ph normalized
   -- monitor
   #) ? ARF: basline renal fx normal on OSH labs. Resolved with IVFs,
   likely was prerenal
   -- Received IVFs
   -- Now on TFs
   #) HTN: on home lisinopril; restarted captopril o/n, but discontinued
   it when he became hypotensive on propofol
   -- will hold ACEI and amlodipine while potential need for propofol
   #) ? BPH HISTORY:
   -- cont home terazosin 10 mg QHS
   #) WEIGHT LOSS: has had 30 pound weight loss in last 3-4 months;
   unclear if [**2-27**] behavior/PD-related problems or malignancy.
   -- nutrition consult, tube feeds
   -- further work-up as above
   #) FEN: will begin tube feeds while intubated, nutrition consult; IVF
   PRN; replet lytes as needed.
   #) PROTEINURIA: possible [**2-27**] IgA gammopathy
   -- monitor renal function; work-up as above
   #) CONTACT PRECAUTIONS: MRSA for positive nasal swab at OSH (treated
   with Bactroban)
   #) PPX: lansoprazole QD; SQH; HAP precuations
   #) ACCESS: PIV
   #) CODE: full
   #) COMMUNICATION: with girlfriend [**Name (NI) 4786**] [**Name (NI) 4788**] [**Telephone/Fax (1) 4789**]
   #) DISPO: to remain in ICU for further work-up and care; will remain
   intubated overnight
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-1-30**] 01:46 AM 30 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2141-1-28**] 11:24 PM
   20 Gauge - [**2141-1-28**] 11:25 PM
   Arterial Line - [**2141-1-29**] 12:57 AM
   18 Gauge - [**2141-1-29**] 11:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-1-31**] 03:42 AM 30 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2141-1-28**] 11:24 PM
   20 Gauge - [**2141-1-28**] 11:25 PM
   Arterial Line - [**2141-1-29**] 12:57 AM
   18 Gauge - [**2141-1-29**] 11:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-01-31 11:19:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Vent support weaned overnight to PSV 12/5.
   NIF this AM -23cmH2, airway resistance [**1-9**]
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2141-1-31**] 03:43 AM
   Vancomycin - [**2141-1-31**] 08:01 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-1-31**] 05:53 AM
   Other medications:
   prevacid, terazosin, atrovent/albuterol, peridex
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-1-31**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.3
C (99.2
   HR: 87 (66 - 115) bpm
   BP: 126/38(61) {115/32(58) - 177/59(106)} mmHg
   RR: 16 (10 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63 kg (admission): 63 kg
   Height: 66 Inch
             Total In:
                                                                  3,332 mL
                                                                    743 mL
   PO:
             TF:
                                                                    729 mL
                                                                    333 mL
   IVF:
                                                                  2,523 mL
                                                                    410 mL
   Blood products:
   Total out:
                                                                  1,485 mL
                                                                    700 mL
   Urine:
                                                                  1,485 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,847 mL
                                                                     43 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 450) mL
   Vt (Spontaneous): 284 (164 - 612) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 70
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.39/59/129/33/8
   NIF: -23 cmH2O
   Ve: 4.3 L/min
   PaO2 / FiO2: 322
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: scant)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   135 K/uL
   114 mg/dL
   0.9 mg/dL
   33 mEq/L
   3.7 mEq/L
   15 mg/dL
   99 mEq/L
   135 mEq/L
   25.7 %
   4.4 K/uL
        [image002.jpg]
                             [**2141-1-29**]  06:06 AM
                             [**2141-1-29**]  10:00 AM
                             [**2141-1-29**]  10:27 AM
                             [**2141-1-29**]  05:30 PM
                             [**2141-1-29**]  11:58 PM
                             [**2141-1-30**]  03:20 AM
                             [**2141-1-30**]  03:38 AM
                             [**2141-1-30**]  12:40 PM
                             [**2141-1-30**]  06:06 PM
                             [**2141-1-31**]  03:03 AM
   WBC
   7.5
   5.9
   4.4
   Hct
   29.9
   25.8
   25.7
   Plt
   153
   127
   135
   Cr
   1.2
   1.0
   0.9
   TCO2
   40
   36
   33
   35
   36
   35
   37
   37
   Glucose
   96
   96
   141
   114
   Other labs: PT / PTT / INR:13.7/35.2/1.2, Differential-Neuts:73.8 %,
   Lymph:16.1 %, Mono:9.4 %, Eos:0.3 %, Lactic Acid:0.6 mmol/L, Ca++:8.1
   mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR:  ETT in place.  Improvement in L-sided volume loss.
   Microbiology: Sputum Cx:  PSA s to zosyn
   Assessment and Plan
   RESPIRATORY FAILURE
      -- predominately ventilatory failure.  Seems to have subacute
   process with acute decompensation.  Given history and low NIF, concern
   for neuromuscular process.  Also was a smoker and had airway resistance
   >20 early in hospital course.  Acute decompensation likely related to
   aspiration.
     -Wean PS and attempt SBT.
     -PSA in sputum Cx.
                -Continue Zosyn
                - d/c Vancomycin
     -Continue standing bronchodilators
    WEAKNESS
      -- unclear whether current constellation of signs and symptoms
   consistent with Parkinson's DIsease or other neurodegenerative process
   or paraneoplastic manifestation.  Doubt ALS in absence of
   fasciculations.
     -Neuro consult when he is extubated to weigh in regarding treatment
   regimen for presumed PD.
    ACID/BASE:
      -Metabolic alkalosis suggestive of both mild volume contraction and
   subacute hypoventilation.
     -Mild hydration/TF
     -Will target a normal pH with the ventilator rather than a normal CO2
   Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2141-1-31**] 03:42 AM 30 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2141-1-28**] 11:24 PM
   20 Gauge - [**2141-1-28**] 11:25 PM
   Arterial Line - [**2141-1-29**] 12:57 AM
   18 Gauge - [**2141-1-29**] 11:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2141-02-01 08:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -- Extubated at ~2 pm; no respiratory compromise
   -- placed S&S c/s, kept NPO PO's until performed
   -- put on gentle maintenance fluids overnight
   -- a-line removed, non-invasive BP measurements grossly off from A-line
   (NIBP 30 points lower)
   -- up-titrated metoprolol IV throughout the night
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2141-1-31**] 03:43 AM
   Vancomycin - [**2141-1-31**] 08:01 AM
   Piperacillin - [**2141-2-1**] 06:16 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2141-2-1**] 02:35 AM
   Metoprolol - [**2141-2-1**] 06:16 AM
   Heparin Sodium (Prophylaxis) - [**2141-2-1**] 06:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-1**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.1
C (97
   HR: 99 (73 - 115) bpm
   BP: 244/77(132) {126/37(61) - 244/77(132)} mmHg
   RR: 37 (13 - 37) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63 kg (admission): 63 kg
   Height: 66 Inch
             Total In:
                                                                  1,668 mL
                                                                  1,083 mL
   PO:
             TF:
                                                                    308 mL
   IVF:
                                                                  1,360 mL
                                                                  1,083 mL
   Blood products:
   Total out:
                                                                  2,545 mL
                                                                    760 mL
   Urine:
                                                                  2,545 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -877 mL
                                                                    323 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 458 (284 - 458) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: ///32/
   NIF: -23 cmH2O
   Ve: 6.5 L/min
   Physical Examination
   NAD, comfortable, no complaints, a+o x 1 (president)
   RRR
   Decreased air movement throughout but no w/r/r
   s/nt/nd
   trace b/l peripheral edema
   Labs / Radiology
   191 K/uL
   11.1 g/dL
   104 mg/dL
   0.9 mg/dL
   32 mEq/L
   4.0 mEq/L
   13 mg/dL
   102 mEq/L
   142 mEq/L
   31.2 %
   5.5 K/uL
        [image002.jpg]
                             [**2141-1-29**]  10:27 AM
                             [**2141-1-29**]  05:30 PM
                             [**2141-1-29**]  11:58 PM
                             [**2141-1-30**]  03:20 AM
                             [**2141-1-30**]  03:38 AM
                             [**2141-1-30**]  12:40 PM
                             [**2141-1-30**]  06:06 PM
                             [**2141-1-31**]  03:03 AM
                             [**2141-1-31**]  04:42 PM
                             [**2141-2-1**]  02:38 AM
   WBC
   5.9
   4.4
   5.5
   Hct
   25.8
   25.7
   31.2
   Plt
   127
   135
   191
   Cr
   1.0
   0.9
   0.9
   0.9
   TCO2
   36
   33
   35
   36
   35
   37
   37
   Glucose
   96
   141
   114
   99
   104
   Other labs: PT / PTT / INR:13.7/35.2/1.2, Differential-Neuts:73.8 %,
   Lymph:16.1 %, Mono:9.4 %, Eos:0.3 %, Lactic Acid:0.6 mmol/L, Ca++:8.7
   mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   MICRO:
URINE CULTURE (Final [**2141-1-30**]):    NO GROWTH.
   Blood cultures [**2141-1-29**]  NGTD
   Sputum [**2141-1-29**] pseudomonas sensitive to zosyn
   IMAGING:
   None new today
   Assessment and Plan
   77 yo M with acute mixed respiratory failure in setting of recent
   hypercarbic resp failure with asp PNA and subacute cognitive decline
   with recent diagnosis of PD, now s/p recurrence of hypercarbic resp
   failure in setting of new pseudomonal PNA
   #) RESPIRATORY FAILURE: likely due to PNA, although poor NIFs raise
   some concern for an ongoing neurodegenrative process
   -- continue zosyn, 10 day course
   #) PARKINSON'S DISEASE, WEAKNESS:  recent dx of PD, though course seems
   somewhat rapid for PD.  Unclear if some other neurodegenrative process
   is occuring.  NIF weak but may be deconditioning vs. more chronic neuro
   process
   -- will cont holding Mirapex for now
   #) HTN: on home lisinopril; restarted captopril o/n, but discontinued
   it when he became hypotensive on propofol
   -- will restart lisinopril & amlodipine when taking PO
s (needs to be
   cleared)
   -- in meantime, continue IV metoprolol,  up-titrate as needed
   -- added hydral IV while NPO
   #) BPH HISTORY:
   -- cont home terazosin 10 mg QHS when taking PO
s; foley for now; renal
   function improved with IVF, UOP remains good
   #) FEN, WEIGHT LOSS: has had 30 pound weight loss in last 3-4 months;
   unclear if [**2-27**] behavior/PD-related problems or malignancy.
   -- nutrition consult
   -- outpt eval when recuperated from PNA
   #) PPX: lansoprazole QD; SQH, bowel reg
   ICU Care
   Nutrition:
   Comments: NPO for now
   Glycemic Control:
   Lines:
   22 Gauge - [**2141-1-28**] 11:24 PM
   20 Gauge - [**2141-1-28**] 11:25 PM
   18 Gauge - [**2141-1-29**] 11:22 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2141-02-01 10:35:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated successfully yesterday.
   A-line noted to be about 30-50 points higher (systolics) than cuff
   pressures.  A-line now d/c'd.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2141-1-31**] 03:43 AM
   Vancomycin - [**2141-1-31**] 08:01 AM
   Piperacillin - [**2141-2-1**] 06:16 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2141-2-1**] 02:35 AM
   Metoprolol - [**2141-2-1**] 06:16 AM
   Heparin Sodium (Prophylaxis) - [**2141-2-1**] 06:17 AM
   Other medications:
   Hydralazine, lopressor, Colace, terazosin, albuterol/atrovent,
   lansoprazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-2-1**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.2
C (97.1
   HR: 81 (69 - 102) bpm
   BP: 137/51(68) {137/51(68) - 175/65(90)} mmHg
   RR: 27 (14 - 37) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63 kg (admission): 63 kg
   Height: 66 Inch
             Total In:
                                                                  1,668 mL
                                                                  1,328 mL
   PO:
             TF:
                                                                    308 mL
   IVF:
                                                                  1,360 mL
                                                                  1,328 mL
   Blood products:
   Total out:
                                                                  2,545 mL
                                                                    760 mL
   Urine:
                                                                  2,545 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -877 mL
                                                                    568 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   PS : 5 cmH2O
   RR (Spontaneous): 14
   FiO2: 21%
   SpO2: 98%
   ABG: ///32/
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: at bases), poor insp
   effort
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person/president, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   11.1 g/dL
   191 K/uL
   104 mg/dL
   0.9 mg/dL
   32 mEq/L
   4.0 mEq/L
   13 mg/dL
   102 mEq/L
   142 mEq/L
   31.2 %
   5.5 K/uL
        [image002.jpg]
                             [**2141-1-29**]  10:27 AM
                             [**2141-1-29**]  05:30 PM
                             [**2141-1-29**]  11:58 PM
                             [**2141-1-30**]  03:20 AM
                             [**2141-1-30**]  03:38 AM
                             [**2141-1-30**]  12:40 PM
                             [**2141-1-30**]  06:06 PM
                             [**2141-1-31**]  03:03 AM
                             [**2141-1-31**]  04:42 PM
                             [**2141-2-1**]  02:38 AM
   WBC
   5.9
   4.4
   5.5
   Hct
   25.8
   25.7
   31.2
   Plt
   127
   135
   191
   Cr
   1.0
   0.9
   0.9
   0.9
   TCO2
   36
   33
   35
   36
   35
   37
   37
   Glucose
   96
   141
   114
   99
   104
   Other labs: PT / PTT / INR:13.7/35.2/1.2, Differential-Neuts:73.8 %,
   Lymph:16.1 %, Mono:9.4 %, Eos:0.3 %, Lactic Acid:0.6 mmol/L, Ca++:8.7
   mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Microbiology: UCx:  NGTD
   BCx:  NGTD
   Sputum Cx: Moderate PSA
   Assessment and Plan
   RESPIRATORY FAILURE:  Predominately ventilatory failure.  Seems to have
   subacute process with acute decompensation.  Given history and low NIF,
   concern for neuromuscular process.  Also was a smoker and had airway
   resistance >20 early in hospital course.  Acute decompensation likely
   related to aspiration. Extubated yesterday.
     -PSA and enterobacter in sputum Cx, change abx to cefepime to cover
   both.
     -Continue standing bronchodilators
    WEAKNESS
     -unclear whether current constellation of signs and symptoms
   consistent with Parkinson's DIsease or other neurodegenerative process
   or paraneoplastic manifestation.  Doubt ALS in absence of
   fasciculations.
     -Neuro consult today with question of if this is indeed PD and if so
   what is appropriate treatment regimen given side effects with previous
   regimens.
   HTN:  When able to take pills, will put on home po regimen, continue
   IV's in the meantime.
   Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2141-1-28**] 11:24 PM
   20 Gauge - [**2141-1-28**] 11:25 PM
   18 Gauge - [**2141-1-29**] 11:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   Patient is critically ill